US05968923
4-(2-Benzoxazolyl)piperidine
A mixture of 2-aminophenol (20 g, 183 mmol), isonipecotic acid (23.7 g, 1 mol. equiv.) and polyphosphoric acid (50 ml) was heated together for 2 hours with stirring. The reaction mixture was cooled, poured onto ice (400 g) and solid sodium hydroxide (85 g) added until the solution achieved pH8. The solid was filtered off, slurried in water (500 ml) and filtered to give the title compound (4.5 g).

reactant | 2-aminophenol | 183 mmol, 20 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | isonipecotic acid | 1 mol, 23.7 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | sodium hydroxide | 85 g | [OH-].[Na+]
product | 4-(2-Benzoxazolyl)piperidine | 4.5 g | O1C(=NC2=C1C=CC=C2)C2CCNCC2 | C12H14N2O
